US07456289B2
A mixture of 6-methoxybenzofuran-3-carbaldehyde (0.600 g, 3.41 mmol), HOCH2CH2OH (3.17 g, 51 mmol) and p-toluenesulfonic acids (0.001 g) in benzene (20 mL) was refluxed for 8 h using a Dean-Stark water trap. The mixture was concentrated under reduced pressure and then diluted with EtOAc. The organic solution was washed with water, dried over anhydrous MgSO4, and concentrated to give 3-(1,3-dioxolan-2-yl)-6-methoxybenzofuran (0.711 g, 95%)

reactant | 6-methoxybenzofuran-3-carbaldehyde | 3.41 mmol, 0.600 g | COC1=CC2=C(C(=CO2)C=O)C=C1 | C10H8O3
reactant | HOCH2CH2OH | 51 mmol, 3.17 g | OCCO | C2H6O2
reactant | water | O | H2O
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 3-(1,3-dioxolan-2-yl)-6-methoxybenzofuran | 0.711 g, 95% | O1C(OCC1)C1=COC2=C1C=CC(=C2)OC | C12H12O4
